US07368578B2
To a solution of methyl 3-{4-[(4-formylphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate (2.12 g) in tetrahydrofuran (30 mL)-ethanol (5 mL) was gradually added sodium borohydride (0.23 g) at room temperature. After stirring the reaction mixture at room temperature for 1 hr, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give methyl 3-(4-{[4-(hydroxymethyl)phenoxy]methyl}-5-methyl-1,3-oxazol-2-yl)benzoate as colorless crystals (1.93 g, yield 91%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 105-106° C.

reactant | methyl 3-{4-[(4-formylphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate | 2.12 g | C(=O)C1=CC=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1 | C20H17NO5
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.23 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl 3-(4-{[4-(hydroxymethyl)phenoxy]methyl}-5-methyl-1,3-oxazol-2-yl)benzoate | 1.93 g, yield 91% | OCC1=CC=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1 | C20H19NO5
